US08580783B2
4-(2-amino-[1,2,4]triazolo[1,5-c]quinazolin-5-ylmethyl)-benzene-1,3-diol
Operating as in Example 39, but employing 5-(2,4-dimethoxy-benzyl)-8-nitro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine, prepared as described in Example 5, instead of 5-(3,5-dimethoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine, the title compound was obtained in 76% yield.

reactant | 5-(2,4-dimethoxy-benzyl)-8-nitro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | COC1=C(CC2=NC=3C=C(C=CC3C=3N2N=C(N3)N)[N+](=O)[O-])C=CC(=C1)OC | C18H16N6O4
reactant | 5-(3,5-dimethoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | COC=1C=C(CC2=NC=3C=CC=CC3C=3N2N=C(N3)N)C=C(C1)OC | C18H17N5O2
product | 4-(2-amino-[1,2,4]triazolo[1,5-c]quinazolin-5-ylmethyl)-benzene-1,3-diol | 76% yield | NC1=NN2C(=NC=3C=CC=CC3C2=N1)CC1=C(C=C(C=C1)O)O | C16H13N5O2
